*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :2012M(0805)/C0G(-55to125[deg])/1.00e-02[uF]/50[V]
* Murata P/N :GCH2195C1H103JE01
* Property : C = 1.00e-02[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 1000[kHz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GCH2195C1H103JE01 Port1 Port2
C01 Port1 N01 9.99e-09
R01 Port1 N01 1.00e+11
L02 N01 N02 4.47e-11
R03 N02 N03 5.33e-03
L04 N03 N04 9.88e-11
R04 N03 N04 2.89e-01
L05 N04 N05 5.99e-11
R05 N04 N05 7.45e-03
C06 N05 N06 3.56e-08
L06 N05 N06 3.69e-11
R06 N05 N06 2.47e-01
C07 N06 N07 1.26e-08
L07 N06 N07 4.23e-11
R07 N06 N07 3.05e-01
C08 N07 N08 1.16e-07
L08 N07 N08 2.40e-12
R08 N07 N08 2.53e-02
C09 N08 N09 1.22e-08
L09 N08 N09 1.38e-11
R09 N08 N09 1.01e-01
C10 N09 N10 3.44e-11
L10 N09 N10 1.00e-11
R10 N09 N10 1.16e+00
C11 N10 Port2 9.78e-13
L11 N10 Port2 2.63e-10
R11 N10 Port2 1.00e+05
.ENDS GCH2195C1H103JE01
